US05814648
To a stirred solution of 4,5-dihydro-2-(3-hydroxyphenyl)-4(R)-phenyloxazole (3.3 g, 13.8 mmol) in N,N-dimethylformamide (30 ml) was added sodium hydride (60% in mineral oil, 0.62 g, 16 mmol) portionwise over 5 min. at ambient temperature. The mixture was stirred for 1 hour, and then a solution of 2-bromo-1-(tert-butyldimethylsilyloxy)ethane (4.94 g, 21 mmol) in N,N-dimethylformamide (5 ml) was added dropwise over 5 min. and the reaction mixture stayed overnight. The reaction mixture was partitioned between ethyl acetate (50 ml) and water (50 ml), the aqueous layer was separated, extracted with ethyl acetate (2×50 ml) and the combined organic phase washed with 1N HCl (100 ml), aqueous 4% NaHCO3 solution (100 ml) and brine (100 ml), dried (MgSO4) and evaporated. The resulting residue was purified by column chromatography on silica gel eluting with ethyl acetate/n-hexane (=1:6) to afford 1-(tert-butyldimethylsilyloxy)-2-[3-(4,5-dihydro-4(R)-phenyloxazol-2-yl)phenoxy]ethane (4.7 g, 86%) as a colorless oil.

reactant | 4,5-dihydro-2-(3-hydroxyphenyl)-4(R)-phenyloxazole | 13.8 mmol, 3.3 g | OC=1C=C(C=CC1)C=1OC[C@H](N1)C1=CC=CC=C1 | C15H13NO2
reactant | sodium hydride | 16 mmol, 0.62 g | [H-].[Na+]
reactant | 2-bromo-1-(tert-butyldimethylsilyloxy)ethane | 21 mmol, 4.94 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(tert-butyldimethylsilyloxy)-2-[3-(4,5-dihydro-4(R)-phenyloxazol-2-yl)phenoxy]ethane | 4.7 g, 86% | [Si](C)(C)(C(C)(C)C)OCCOC1=CC(=CC=C1)C=1OC[C@H](N1)C1=CC=CC=C1 | C23H31NO3Si
